US09163003B2
Ethyl 5-fluoro-1-oxo-1,3-dihydrospiro[indene-2,4′-piperidine]-1′-carboxylate
To a stirred solution of 5-fluoro-1-indanone (302 mg, 2.013 mmol) and bis-(2-bromo-ethyl)-carbamic acid ethyl ester (610 mg, 2.01 mmol) in DMF (5 mL) at 50° C. was added NaH (121 mg, 5.03 mmol) by small portions. After being stirred at 50° C. for 16 hr, the reaction was cooled to 25° C. The reaction was diluted with 15 mL of ethyl acetate and washed twice with 10 mL of water, dried over Na2SO4 and concentrated in vacuo. The crude product was purified by flash column (gradient of 85:15 to 60:40 heptane/ethyl acetate in 20 min to give the title compound (188 mg, 0.645 mmol, 32.1% yield). MS (ESI) [m/e, (M+H)+]=292.4. HPLC retention time=1.46 minutes (Agilent 1100 HPLC system; 3.0 cm×3.0 mm×3.0 um C8 column; flow rate of 2.0 mL/min; gradient of 5-95% acetonitrile/water with 0.1% formic acid over 2 minutes).

reactant | 5-fluoro-1-indanone | 2.013 mmol, 302 mg | FC=1C=C2CCC(C2=CC1)=O | C9H7FO
reactant | bis-(2-bromo-ethyl)-carbamic acid ethyl ester | 2.01 mmol, 610 mg | C(C)OC(N(CCBr)CCBr)=O | C7H13Br2NO2
reactant | NaH | 5.03 mmol, 121 mg | [H-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | Ethyl 5-fluoro-1-oxo-1,3-dihydrospiro[indene-2,4′-piperidine]-1′-carboxylate | 0.645 mmol, 188 mg, 32.1% yield | FC=1C=C2CC3(CCN(CC3)C(=O)OCC)C(C2=CC1)=O | C16H18FNO3
